US08703758B2
A) tert-butyl [(1S)-2-({1-[6-(2-cyclopropylethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate
To a solution of 2-cyclopropylethanol (550 mg) in THF (10 mL) were added triethylamine (0.80 mL) and methanesulfonyl chloride (0.50 mL), and the mixture was stirred at room temperature for 30 min. The reaction mixture was added to a suspension of tert-butyl [(1S)-2-{[1-(6-hydroxy-1,3-benzoxazol-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate (250 mg) and potassium carbonate (1.8 g) in DMF (10 mL), and the mixture was stirred at room temperature for 15 hr. The reaction mixture was diluted with ethyl acetate, washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel chromatography (hexane/ethyl acetate) to give the title compound (190 mg).

reactant | 2-cyclopropylethanol | 550 mg | C1(CC1)CCO | C5H10O
reactant | methanesulfonyl chloride | 0.50 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | tert-butyl [(1S)-2-{[1-(6-hydroxy-1,3-benzoxazol-2-yl)piperidin-4-yl]oxy}-1-methylethyl]carbamate | 250 mg | OC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C20H29N3O5
reactant | potassium carbonate | 1.8 g | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.80 mL | C(C)N(CC)CC | C6H15N
product | tert-butyl [(1S)-2-({1-[6-(2-cyclopropylethoxy)-1,3-benzoxazol-2-yl]piperidin-4-yl}oxy)-1-methylethyl]carbamate | 190 mg | C1(CC1)CCOC1=CC2=C(N=C(O2)N2CCC(CC2)OC[C@H](C)NC(OC(C)(C)C)=O)C=C1 | C25H37N3O5
